US07279486B2
Step 1. 2-(2-Bromo-4-fluorophenyl)ethanol
To a solution of (2-bromo-4-fluorophenyl)acetic acid (1.5 g, 6.44 mmol) in tetrahydrofuran (10 mL) was added 1M solution of borane-tetrahydrofuran complex in tetrahydrofuran (9.66 mL, 9.66 mmol) at 0° C. The mixture was warmed to room temperature and stirred for 3 h. The reaction mixture was quenched by the addition of 2N hydrochloric acid (50 mL), extracted with ethyl acetate (200 mL). The organic layer was washed with brine (50 mL) dried over sodium sulfate, and evaporated. The residue was purified by column chromatography on silica gel (100 g) eluting with hexane/ethyl acetate (5/1) to afford 1.30 g (92%) of the title compound as colorless oil:

reactant | (2-bromo-4-fluorophenyl)acetic acid | 6.44 mmol, 1.5 g | BrC1=C(C=CC(=C1)F)CC(=O)O | C8H6BrFO2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9.66 mmol, 9.66 mL | O1CCCC1 | C4H8O
product | 2-(2-Bromo-4-fluorophenyl)ethanol | 1.30 g, 92% | BrC1=C(C=CC(=C1)F)CCO | C8H8BrFO
